US07049447B2
To the mixture of (2R,3S)-3-(t-butoxycarbonyl)amino-4-phenyl-butane-1,2-diol (44 g) and 400 ml of pyridine, 60 g (2 equivalents) of p-TsCl was added and the solution was stirred at 0° C. for 4 hours. After pH of the solution was adjusted 10 with 25% NaOH and it was stirred at 0° C. for 3 hours. 400 ml of methylene chloride was added to the solution and it was washed by 400 ml of 1N HCl, 400 ml of 5% aq.NaHCO3 and 400 ml of water and was distillated under reduced pressure. A white crystal compound of (2R,3S)-3-(t-butoxycarbonyl)amino-1,2-epoxy-4-phenylbutane was obtained using a column chromatography.

reactant | (2R,3S)-3-(t-butoxycarbonyl)amino-4-phenyl-butane-1,2-diol | 44 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](CO)O)CC1=CC=CC=C1 | C15H23NO4
reactant | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (2R,3S)-3-(t-butoxycarbonyl)amino-1,2-epoxy-4-phenylbutane | C(C)(C)(C)OC(=O)N[C@H]([C@@H]1CO1)CC1=CC=CC=C1 | C15H21NO3
